US08535871B2
The inside of a reactor was sufficiently dried by vacuum heating, and the atmosphere inside the reactor was replaced with dry nitrogen. The reactor was charged with 2000 ml of dichloromethane and 128.4 ml (1.5 mol) of oxalyl chloride at −78° C. After the dropwise addition of 233 ml (3.0 mol) of DMSO, the mixture was stirred at −78° C. After 10 minutes had elapsed, a dichloromethane (300 ml) solution of 136.1 g (1.0 mol) of 4,4-difluorocyclohexanol was added dropwise to the mixture using a syringe over 10 minutes. After stirring the reaction mixture at −78° C. for 40 minutes and at −45° C. for 40 minutes, N,N-diisopropylethylamine (500 ml) was added to the reaction mixture. After stirring the mixture at 0° C. for 20 minutes, a saturated ammonium chloride aqueous solution (1000 ml) was added to the mixture to terminate the reaction. The mixture was then extracted three times with dichloromethane (3000 ml). The organic layer was washed with 1N hydrochloric acid and a saturated salt solution, and dried over magnesium sulfate. After removing anhydrous magnesium sulfate using a Buchner funnel, the solvent was evaporated. The residue was distilled under reduced pressure (30 mmHg) to obtain 4,4-difluorocyclohexanone (118.9 g (yield: 85%)).

reactant | oxalyl chloride | 1.5 mol, 128.4 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 3.0 mol, 233 ml | CS(=O)C | C2H6OS
reactant | 4,4-difluorocyclohexanol | 1.0 mol, 136.1 g | FC1(CCC(CC1)O)F | C6H10F2O
reactant | N,N-diisopropylethylamine | 500 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ammonium chloride | 1000 ml | [Cl-].[NH4+]
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2000 ml | ClCCl | CH2Cl2
product | 4,4-difluorocyclohexanone | 118.9 g, yield: 85% | FC1(CCC(CC1)=O)F | C6H8F2O
